US05702887
treating 3-hydroxy-benz[b]acridine-12-carboxylic acid with cesium carbonate and diethylaminoethyl bromide hydrobromide to produce N,N-diethylaminoethyl 3-(N,N-diethylamino)ethoxy-benz[b]acridine-12-carboxylate;

reactant | 3-hydroxy-benz[b]acridine-12-carboxylic acid | OC1=CC=2N=C3C=C4C(=CC3=C(C2C=C1)C(=O)O)C=CC=C4 | C18H11NO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethylaminoethyl bromide hydrobromide | Br.C(C)N(CC)CCBr
product | N,N-diethylaminoethyl 3-(N,N-diethylamino)ethoxy-benz[b]acridine-12-carboxylate | C(C)N(CC)CCOC1=CC=2N=C3C=C4C(=CC3=C(C2C=C1)C(=O)OCCN(CC)CC)C=CC=C4 | C30H37N3O3
